Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p Multiple stab wound assault
 
Major Surgical or Invasive Procedure:
___ Repair of diaphragm and liver injuries; repair of tracheal 
and esophageal lacerations; repair of head/facial lacerations

___ Tracheal & esophageal repair; right VATS; mediastinal 
drainage and G/J tube placement

___ Bronchoscopy

___ RUQ ultrasound

___  RUQ ultrasound w/aspiration

___ UGI series

 
History of Present Illness:
___ year-old male s/p multiple stab wounds to his head, face, 
neck, right shoulder, right arm and abdomen. He was taken to an 
area hospital where a right chest tube was placed which drained 
about 100 cc of blood. He was then transported to ___ via 
Medflight; he was hemodynamically stable upon arrival to the 
Emergency department. On initial work-up, chest x-ray showed an 
expanded right lung with a chest tube in place. His airway was 
intact, although he had an anterior stab wound to the neck which 
showed gurgling sounds of air emanating at inspiration. The fast 
examination in the trauma bay was positive and he was taken to 
the operating room immediately for an exploratory laparotomy
and repair of his mulitple injuries.
 
Past Medical History:
None
 
Family History:
Noncontributory
 
Pertinent Results:
___ Urine cx: no growth
___ Urine cx: no growth
___ Sputum cx: mod OPF
___ Sputum cx: mod growth Haemophilus Influenzae, beta-lact 
neg, presumptively sensitive to Ampicillin-beta lactamase 
sensitive
___ MRSA screen: negative
___ Urine cx: no growth
___ tissue cx:2+ PMN, prelim G+ cocci in pairs-coag neg staph
___ abscess: 4+ PMN, 2+ G+ cocci in pairs:  strep viridans, 
___ albicans, staph coag negative 
___ pleural fluid: no growth
___ blood cx: final no growth
___ blood cx: final no growth
___ tissue cx: 2+ PMN, prelim G+ cocci in pairs
___ urine cx: no growth
___ Sputum cx: no growth
___ urine cx: Neg
___ blood cx: pending
___ blood cx: pending
___ BAL: 2+ PMN, 1+ G+ cocci in pairs and clusters (neg cx - no 
growth, no fungus)
___ CDiff -negative
___ blood cx: pending
___ blood cx: pending
___ sputum: invalid, contaminated
___ urine cx: no growth
___ CVL tip cx: (prelim) no signif growth

Imaging:
___ CXR:  Pneumomediastinum.  Possible small right ptx. 
Extensive subcutaneous emphysema, particularly of the shoulders 
and neck. 
___ postop CXR: Small apical PTX on L.  Retrocardiac opacity 
c/w atelectasis.  L brachiocephalic CVL passing across chest 
into L brachiocephalic vein. 
___ CT head:  No IC hemorrhage or mass effect. Extensive soft 
tissue emphysema of the neck which traverses fascial planes
___ CT c-spine: No cervical spine fracture or malalignment. 
Extensive subcutaneous and intramuscular emphysema throughout 
the anterior neck which extends through fascial planes to 
involve the prevertebral, masticator, and carotid spaces as well 
as superior anterior mediastinum. The sites of penetrating 
trauma are difficult to define given extent of emphysema. No 
discrete hematoma is seen. Small biapical pneumothoraces. 
___: CXR - No PTX, widening of the paraverterbral stripe
___: CXR - multifocal pneumonia, resolution of pneumo from 
earlier in day
___: CXR - improved aeration of R lung, slight increase in 
opacity in L mid lung. 
___: CXR - (post WS) No PTX.  RM lung opacity unchanged.  
Additional clearing in RUL, stable density LLL. No change in NGT 
and trach position. Better aeration L mid lung.
___: CT neck/chest-Air collections-post-cricoid region/proximal 
esophagus to R of midline, retropharyngeal space inferiorly into 
the posterior superior mediastinum w/ air and soft tissue 
density-mediastinitis. rim- enhancing collection in the 
posterior and right 
superior mediastinum ? abscess.
___: CXR-Patchy areas of opacification could well represent 
pulmonary contusion or postoperative atelectasis. CVL placed.
___: CT neck/chest - soft tissue swelling, gas in the 
prevertebral space, no fluid collect. Locules of gas in the 
mediastinum c/w mediastinitis. no drainable collect. Liver lac.
___: CT c/a/p - no signif change from 1 day ago.  Extensive 
mediastinal inflammatory change with fluid and gas with 
mediastinal drain in place and no drainable fluid collection.  
Unchanged extensive pneumonia of lower lobes bilaterally. 
Unchanged hepatic lacerations with layering hematoma.  No 
intra-abd or pelvic abscess 
___: Bedside bronch by IP:  Tracheal anastamosis with 
granulation tissue, no signif stenosis, site healing still 
slightly friable.

 
Brief Hospital Course:
He was admitted to the Trauma Service and taken immediately to 
the operating room for repair of his injuries; there was an 
approximate 800 cc blood loss intraoperatively. Postoperatively 
he was taken to the Trauma ICU for close monitoring. Thoracics 
was consulted given his esophageal and tracheal injuries; he was 
taken to the operating room on ___ for right VATS mediastinal 
drainage, laparotomy with tube gastrostomy and tube jejunostomy, 
cervical exploration and drainage and primary repair of trachea 
and esophagus with a sternohyoid muscle flap buttress. There 
were no intraoperative complications. On ___ he was extubated 
without incident. He was taken back to the operating room on 
___ for a bronchoscopy in order to verify the anastomotic site 
within the trachea. He was placed on IV antibiotics and will 
need to continue the course for a total of 6 weeks following 
repair. 

His hematocrit began to drop; he underwent a tagged RBC scan on 
___ which showed immediate pooling of tracer in the left 
abdomen, likely within loops of
jejunum. Gastroenterology was consulted; he required blood 
transfusions and was started on IV PPI twice daily. His 
hematocrits were followed closely; Hct as of ___ was 33.

He underwent an upper GI series on ___ which showed no 
evidence of esophageal leak. He was started on a clear liquid 
diet and eventually upgraded to full liquids.

Infectious Disease was consulted for recommendations on home 
antibiotics; it was recommended that he remain on Vancomycin and 
Augmentin until follow up in ___ clinic early ___.

Social work was involved early on due to the nature of his 
traumatic injuries. The ___ Violence Prevention and 
Recovery were consulted; he was provided with counseling 
services post hospital discharge. He has been receiving Ativan 
for anxiety associated with the assault and Ambien prn for 
sleep.

He was evaluated by ___ and determined to be independent with 
functional activities. He will require skilled nursing at home 
for overall respiratory, gastrointestinal/nutrition and 
skin/wound assessments.

 
 

 
Medications on Admission:
None
 
Discharge Medications:
1. Zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for sleep.
Disp:*30 Tablet(s)* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg/5 mL Solution Sig: ___ MLs 
PO Q4H (every 4 hours) as needed for pain.
Disp:*750 ML(s)* Refills:*0*
3. Vancomycin 500 mg Recon Soln Sig: Seven Hundred Fifty (750) 
MG Intravenous every twelve (12) hours for 3 weeks.
Disp:*qs * Refills:*0*
4. Normal Saline Flush 0.9 % Syringe Sig: Five (5) ML's 
Injection every twelve (12) hours for 3 weeks: Flush with 5 ML's 
before and after medication administration.
Disp:*qs * Refills:*1*
5. Augmentin 250-62.5 mg/5 mL Suspension for Reconstitution Sig: 
Ten (10) ML's PO three times a day for 3 weeks.
Disp:*qs * Refills:*0*
6. Heparin Lock Flush (Porcine) 100 unit/mL Syringe Sig: Five 
(5) ML Intravenous every twelve (12) hours.
Disp:*60 ML(s)* Refills:*0*
7. Outpatient Lab Work
Vancomycin peak and trough level weekly & prn based on dose 
changes. Weekly CBC w/ diff; LFT's
Next draw date on ___ with results called to ID Fellow on 
call; call ___ and ask to have the ID Fellow/Resident 
paged.
8. Colace 50 mg/5 mL Liquid Sig: Ten (10) ML's PO twice a day as 
needed for constipation.
Disp:*500 ML's* Refills:*0*
9. Milk of Magnesia 800 mg/5 mL Suspension Sig: Thirty (30) ML's 
PO twice a day as needed for constipation.  

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
s/p Multiple stab wounds
Head/facial lacerations
Esophageal and Tracheal lacerations
Diaphragmatic injury
Liver injury

 
Discharge Condition:
Good

 
Discharge Instructions:
Return to the Emergency room if you develop any fevers, chills, 
headache, dizziness, chest pain, shortness of breath, chest 
tightness, abdominal pain, nausea, vomiting, diarrhea, increased 
redness/drainage from your surgical incision/sites and/or any 
other symptoms that are concerning to you.
 
Followup Instructions:
___